* C:\Users\Randall Jack\Desktop\D_Flip_Flop.asc
M1 clkb clk vss vss C5NNMOS l=0.6u w=1.8u
M2 clkb clk vdd vdd C5NPMOS l=0.6u w=3.6u
M3 clkbb clkb vss vss C5NNMOS l=0.6u w=1.8u
M4 clkbb clkb vdd vdd C5NPMOS l=0.6u w=3.6u
M5 N003 N001 vss vss C5NNMOS l=0.6u w=1.8u
M6 N003 N001 vdd vdd C5NPMOS l=0.6u w=3.6u
M7 N001 clkb D_in vss C5NNMOS l=0.6u w=1.8u
M8 N001 clkbb D_in vdd C5NPMOS l=0.6u w=3.6u
M9 N002 N003 vss vss C5NNMOS l=0.6u w=1.8u
M10 N002 N003 vdd vdd C5NPMOS l=0.6u w=3.6u
M11 N001 clkbb N002 vss C5NNMOS l=0.6u w=1.8u
M12 N001 clkb N002 vdd C5NPMOS l=0.6u w=3.6u
M13 slave_out N004 vss vss C5NNMOS l=0.6u w=1.8u
M14 slave_out N004 vdd vdd C5NPMOS l=0.6u w=3.6u
M15 N004 clkbb N003 vss C5NNMOS l=0.6u w=1.8u
M16 N004 clkb N003 vdd C5NPMOS l=0.6u w=3.6u
M17 N005 slave_out vss vss C5NNMOS l=0.6u w=1.8u
M18 N005 slave_out vdd vdd C5NPMOS l=0.6u w=3.6u
M19 N004 clkb N005 vss C5NNMOS l=0.6u w=1.8u
M20 N004 clkbb N005 vdd C5NPMOS l=0.6u w=3.6u
M21 Qb_out slave_out vss vss C5NNMOS l=0.6u w=1.8u
M22 Qb_out slave_out vdd vdd C5NPMOS l=0.6u w=3.6u
M23 Q_out Qb_out vss vss C5NNMOS l=0.6u w=1.8u
M24 Q_out Qb_out vdd vdd C5NPMOS l=0.6u w=3.6u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Randall Jack\Documents\LTspiceXVII\lib\cmp\standard.mos
* All NMOS devices are 1.8u / 0.6u\nAll PMOS devices are 3.6u / 0.6u
.backanno
.end
